US04591590
A mixture of N-(2-methylpyridin-6-yl)phthalimide (16.7 g), N-bromosuccinimide (15.0 g) and benzoyl peroxide (300 mg) in chloroform (150 ml) was refluxed for 5 hours with stirring under ultraviolet irradiation, and then additional N-bromosuccinimide (12.5 g) and benzoyl peroxide (300 mg) were added thereto. The mixture was further refluxed for 18 hours with stirring under ultraviolet irradiation. The reaction mixture was evaporated to dryness and the residue was extracted with ethyl acetate. The extract was washed with water, dried and evaporated to dryness. The residue was subjected to column chromatography on silica gel eluting with a mixed solvent (toluene:ethyl acetate=20:1) to give N-(2-bromomethylpyridin-6-yl)phthalimide (8.85 g). mp: 169°-170° C.

reactant | N-(2-methylpyridin-6-yl)phthalimide | 16.7 g | CC1=NC(=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H10N2O2
reactant | N-bromosuccinimide | 15.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 12.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | benzoyl peroxide | 300 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | benzoyl peroxide | 300 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | N-(2-bromomethylpyridin-6-yl)phthalimide | 8.85 g | BrCC1=NC(=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H9BrN2O2
